US07276611B2
The 3a,4,5,6-Tetrahydro-3-oxo-3H-pyrrolo[1,2-c][1,2,3]oxadiazol-7-ium ylide (971 g, 7.70 mol, made as in example 2) and 1,2-diethoxyethane (DEE, 2913 mL) are charged to a multinecked 12 L round bottom flask, is equipped with a water cooled condenser, and purged with nitrogen. The stirred solution is heated to 120-125° C. under a nitrogen atmosphere and ethyl propiolate (971 g, 9.90 mol) is added dropwise over a period of 3 hours (carbon dioxide evolution). The reaction is held at 120-125° C. for about 5 hours until the conversion is >99% (<1% of residual 3a,4,5,6-tetrahydro-3-oxo-3H-pyrrolo[1,2-c][1,2,3]oxadiazol-7-ium ylide, by GC-MS analysis). The mixture is then concentrated under oil pump vacuum using a rotary evaporator with a bath temperature up to 70° C. to a residue. About 1.5 kg of toluene is then added to the residue and the mixture is concentrated once more. A dark oil is obtained [1218 g, 46.9% strength, (HPLC) in 41% (real yield of ethyl 5,6-dihydro-4H-pyrrolo[1,2-b]pyrazole-2-carboxylate, from crude 3a,4,5,6-tetrahydro-3-oxo-3H-pyrrolo[1,2-c][1,2,3]oxadiazol-7-ium ylide].

reactant | 3a,4,5,6-Tetrahydro-3-oxo-3H-pyrrolo[1,2-c][1,2,3]oxadiazol-7-ium | O=C1C2[N+](=NO1)CCC2
reactant | 1,2-diethoxyethane | 2913 mL | C(C)OCCOCC | C6H14O2
reactant | ethyl propiolate | 9.90 mol, 971 g | C(C#C)(=O)OCC | C5H6O2
reactant | carbon dioxide | C(=O)=O | CO2
product | ethyl 5,6-dihydro-4H-pyrrolo[1,2-b]pyrazole-2-carboxylate | N=1N2C(=CC1C(=O)OCC)CCC2 | C9H12N2O2
